US08686002B2
2.3 3-(2-Methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2-amine
The title compound was synthesized according to EXAMPLE 63, section 1.8 starting from 2-[(2-methoxybenzylamino)methyl]-5-nitrophenylamine by reaction with cyanogen bromide.

reactant | 2-[(2-methoxybenzylamino)methyl]-5-nitrophenylamine | COC1=C(CNCC2=C(C=C(C=C2)[N+](=O)[O-])N)C=CC=C1 | C15H17N3O3
reactant | cyanogen bromide | N#CBr | CBrN
product | 3-(2-Methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2-amine | COC1=C(CN2C(=NC3=CC(=CC=C3C2)[N+](=O)[O-])N)C=CC=C1 | C16H16N4O3
